US07192968B2
(1S,2R,4S)-4-Carboxy-N1-benzyloxycarbonyl-N2-(tert-butoxycarbonyl)-1,2-cyclohexanediamine
(1S,2R,4S)-N1-Benzyloxycarbonyl-N2-(tert-butoxy-carbonyl)-4-ethoxycarbonyl-1,2-cyclohexanediamine (620 mg) was dissolved in tetrahydrofuran (10 ml), and an aqueous solution (5.0 ml) of lithium hydroxide monohydrate (93 mg) was added to stir the mixture at room temperature for 16 hours. After lithium hydroxide monohydrate (221 mg) was additionally added to the reaction mixture, and the mixture was stirred at room temperature for 2 hours, the reaction mixture was neutralized with 1N hydrochloric acid and extracted with methylene chloride. An organic layer was washed with saturated saline and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain the title compound (580 mg) as a colorless foamy substance.

reactant | (1S,2R,4S)-N1-Benzyloxycarbonyl-N2-(tert-butoxy-carbonyl)-4-ethoxycarbonyl-1,2-cyclohexanediamine | 620 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](C[C@H](CC1)C(=O)OCC)NC(=O)OC(C)(C)C | C22H32N2O6
reactant | lithium hydroxide monohydrate | 5.0 ml, 93 mg | O.[OH-].[Li+]
reactant | lithium hydroxide monohydrate | 221 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (1S,2R,4S)-4-Carboxy-N1-benzyloxycarbonyl-N2-(tert-butoxycarbonyl)-1,2-cyclohexanediamine | 580 mg | C(=O)(O)[C@@H]1C[C@H]([C@H](CC1)NC(=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C | C20H28N2O6
